US09107412B2
Preparation of 4-(2-Chloro-4-fluorophenyl)-α-(2,4-difluorophenyl)-1,3-dimethyl-1H-pyrazole-5-methanol (Compound 122)
5-Bromo-4-(2-chloro-4-fluorophenyl)-1,3-dimethyl-1H-pyrazole (i.e. the product of Synthesis Example 1, Step B) (0.25 g, 0.82 mmol) was dissolved in anhydrous tetrahydrofuran (12 mL), and the mixture was cooled in a dry ice/acetone bath under a nitrogen atmosphere. A hexane solution of n-butyllithium (2.0 M, 0.49 mL, 0.98 mmol) was added dropwise over 5 minutes. After 15 minutes, a solution of 2,4-difluorobenzaldehyde (0.09 mL, 0.82 mmol) in anhydrous tetrahydrofuran (3 mL) was added slowly dropwise, causing the dark red-colored solution to lighten to a yellow color. After 45 minutes, the reaction mixture was quenched by the addition of saturated aqueous NH4Cl solution (˜20 mL) and allowed to warm to ambient temperature. This mixture was extracted with ethyl acetate, and the organic phase was washed with saturated aqueous NH4Cl solution (25 mL) and with brine, dried over Na2SO4, and concentrated to leave a viscous residue. This residue was purified by column chromatography through silica gel eluted with a gradient of ethyl acetate in hexane (7% to 10%) to give the title compound as a white semi-solid (109 mg).

reactant | 5-Bromo-4-(2-chloro-4-fluorophenyl)-1,3-dimethyl-1H-pyrazole | BrC1=C(C(=NN1C)C)C1=C(C=C(C=C1)F)Cl | C11H9BrClFN2
reactant | hexane | CCCCCC | C6H14
reactant | n-butyllithium | 0.98 mmol, 2.0 M, 0.49 mL | C(CCC)[Li]
reactant | 2,4-difluorobenzaldehyde | 0.82 mmol, 0.09 mL | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-(2-Chloro-4-fluorophenyl)-α-(2,4-difluorophenyl)-1,3-dimethyl-1H-pyrazole-5-methanol | 109 mg | ClC1=C(C=CC(=C1)F)C=1C(=NN(C1C(O)C1=C(C=C(C=C1)F)F)C)C | C18H14ClF3N2O
